US08703808B2
(Z)-3-[2-cyano-2-(5-methoxy-1H-indol-3-yl)-vinyl]-benzonitrile
To a solution of sodium ethanolate [prepared from sodium (30 mg, 1.3 mmol, 1.2 eq.) and anhydrous ethanol (8 mL)] were added, under an argon atmosphere, (5-methoxy-1H-indol-3-yl)-acetonitrile (200 mg, 1.1 mmol, 1.0 eq.) and, after 10 minutes stirring, 3-formyl-benzonitrile (200 mg, 1.5 mmol, 1.4 eq.). The reaction apparatus was protected from light and the mixture stirred at room temperature for 3 days. The solvent was removed under reduced pressure, and the crude purified by silica gel flash-column chromatography (eluent: heptane/CH2Cl2, 50:50 à 20:80). The residue was triturated with ethanol and diethyl ether to the compound (30) as a yellow powder (110 mg, 34%). mp: 149° C.; IR νmax (cm−1): 2227 (νCN), 3338 (νN—H); 1H NMR (DMSO, 500 MHz) δ (ppm): 3.84 (3H, s, 5′-methoxy), 6.90 (1H, m, H6′), 7.41 (1H, m, H7′), 7.49 (1H, s, H4′), 7.73 (1H, m, H5″), 7.76 (1H, s, H3), 7.79 (1H, s, H2′), 7.88 (1H, m, H6″), 8.24 (1H, m, H″), 8.28 (1H, m, H″), 11.70 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 55.8 (5′-methoxy), 102.2 (C4′), 108.6 and 110.3 (C2 and C3′), 112.0 (C3″), 112.6 (C6′), 113.3 (C7′), 118.0 and 118.6 (C1 and nitrile C), 124.1 (C3a′), 128.1 (C2′), 130.1 (C5″), 132.3 (C6″), 132.4 and 132.5 (C2″, C5″ and C7a′), 133.1 (C3), 136.2 (C1″), 154.8 (C5′); ESI-MS: m/z 322.1 ([M-Na]+); HRESI-MS: m/z 322.0946 (calcd for C19H13N3ONa, 322.0956).

reactant | sodium ethanolate | 1.3 mmol, 8 mL, 30 mg, 1.2 eq. | C(C)[O-].[Na+]
reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 1.1 mmol, 200 mg, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | 3-formyl-benzonitrile | 1.5 mmol, 200 mg, 1.4 eq. | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
product | (Z)-3-[2-cyano-2-(5-methoxy-1H-indol-3-yl)-vinyl]-benzonitrile | C(#N)\C(=C/C=1C=C(C#N)C=CC1)\C1=CNC2=CC=C(C=C12)OC | C19H13N3O
